US08207168B2
A solution of triphenylphosphine (18.5 g, 70.6 mmol) and 40% DEAD in toluene (12.3 g, 70.6 mmol) in 125.0 mL of tetrahydrofuran was cooled to 0° C. under N2 as a solution of 1-(4-hydroxy-phenyl)-propan-2-one (6.54 g, 43.6 mmol) and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (10.7 g, 53.2 mmol) in 125.0 mL of tetrahydrofuran was added dropwise via addition funnel. After stirred at rt overnight, the solvent was evaporated. The residue was stirred in hexane/EtOAc, the solid formed was filtered. The hexane/EtOAC solution was concentrated and purified by ISCO graduate chromatography (hexane-20% EtOAc in hexane) to give 4-[4-[2-oxo-propyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (8.52 g, 59%).

reactant | triphenylphosphine | 70.6 mmol, 18.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 70.6 mmol, 12.3 g | C1(=CC=CC=C1)C | C7H8
reactant | 1-(4-hydroxy-phenyl)-propan-2-one | 43.6 mmol, 6.54 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 53.2 mmol, 10.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
solvent | tetrahydrofuran | 125.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125.0 mL | O1CCCC1 | C4H8O
product | 4-[4-[2-oxo-propyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 8.52 g, 59% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)CC(C)=O | C19H27NO4
